US04337354
Step B. 2,3-Dichloro-4-methoxycinnamic acid
A mixture of 2,3-dichloro-4-methoxybenzaldehyde (158 gm., 0.77 mole), malonic acid (146 gm., 1.4 mole), pyridine (450 ml.) and piperidine (15 ml.) is heated and stirred on a steam bath for 23/4 hours. The hot reaction mixture is poured, with stirring into a mixture of concentrated hydrochloric acid (770 ml.) and crushed ice (3.1 kg.).

reactant | 2,3-dichloro-4-methoxybenzaldehyde | 0.77 mole, 158 gm | ClC1=C(C=O)C=CC(=C1Cl)OC | C8H6Cl2O2
reactant | malonic acid | 1.4 mole, 146 gm | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 15 ml | N1CCCCC1 | C5H11N
reactant | hydrochloric acid | 770 ml | Cl | ClH
solvent | pyridine | 450 ml | N1=CC=CC=C1 | C5H5N
product | 2,3-Dichloro-4-methoxycinnamic acid | ClC1=C(C=CC(=O)O)C=CC(=C1Cl)OC | C10H8Cl2O3
